US04804684
(a) N-(Piperidin-1-ylethoxy)phthalimide
21.3 g (0.25 mol) of piperidine are added to a solution of 54 g (0.2 mol) of N-(2-bromoethoxy)phthalimide in 800 ml of methyl ethyl ketone, in the presence of 31.5 g (0.3 mol) of sodium carbonate and 1 g of sodium iodide.

reactant | piperidine | 0.25 mol, 21.3 g | N1CCCCC1 | C5H11N
reactant | N-(2-bromoethoxy)phthalimide | 0.2 mol, 54 g | BrCCON1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO3
reactant | sodium carbonate | 0.3 mol, 31.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 1 g | [I-].[Na+]
solvent | methyl ethyl ketone | 800 ml | C(C)C(=O)C | C4H8O
product | N-(Piperidin-1-ylethoxy)phthalimide | N1(CCCCC1)CCON1C(C=2C(C1=O)=CC=CC2)=O | C15H18N2O3
